US05536718
6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carboxylic acid
A mixture of 12.0 g of methyl 6-[[bis(5-fluoro-2-methylbenzoyl)]amino]pyridine-3-carboxylate, 60 ml of methanol-tetrahydrofuran (1:1) and 23 ml of 5N NaOH is stirred at room temperature for 16 hours. The mixture is concentrated under vacuum, diluted with 25 ml of water, cooled and acidified with 1N HCl. The mixture is filtered and the solid washed with water to give 6.3 g of the product as a white solid.

reactant | methyl 6-[[bis(5-fluoro-2-methylbenzoyl)]amino]pyridine-3-carboxylate | 12.0 g | FC=1C=CC(=C(C(=O)N(C2=CC=C(C=N2)C(=O)OC)C(C2=C(C=CC(=C2)F)C)=O)C1)C | C23H18F2N2O4
reactant | NaOH | 5N, 23 ml | [OH-].[Na+]
solvent | methanol tetrahydrofuran | 60 ml | CO.O1CCCC1
product | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carboxylic acid | 6.3 g | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)O)C1)C | C14H11FN2O3
